US07459477B2
Production of 2-(1,3-dimethylbutyl)-4-(2,2,2-trifluoroethyl)aniline (Compound No. 5-17)
Aluminum lithium hydride (1.62 g, 4.26 mmol) was dissolved in tetrahydrofuran (20 ml), followed by adding dropwise thereto 2-(1,3-dimethylbutyl)-4-pentafluoroethylaniline (974 mg, 3.3 mmol), and the resulting mixture was stirred at reflux temperature for 3 hours. Water was added to the reaction mixture in small portions under ice-cooling, followed by stirring for 10 minutes. Magnesium sulfate was added thereto and then stirred for 10 minutes. The reaction mixture was filtered through Celite and the filtrate was concentrated under reduced pressure, after which the residue was separated and purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain 260 mg of the desired compound.

reactant | Aluminum lithium hydride | 4.26 mmol, 1.62 g | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | 2-(1,3-dimethylbutyl)-4-pentafluoroethylaniline | 3.3 mmol, 974 mg | CC(CC(C)C)C1=C(N)C=CC(=C1)C(C(F)(F)F)(F)F | C14H18F5N
reactant | Water | O | H2O
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(1,3-dimethylbutyl)-4-(2,2,2-trifluoroethyl)aniline | 260 mg, Yield: 30% | CC(CC(C)C)C1=C(N)C=CC(=C1)CC(F)(F)F | C14H20F3N
